Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Doxycycline / Sulfa(Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
cellulitis 
 
Major Surgical or Invasive Procedure:
needle aspiration of subcutaneous hematoma

 
History of Present Illness:
___ with A. fib on rivaroxaban, hypertension, and venous stasis 
presents with 7 days of increasing erythema on the left leg.  
One week ago, patient was walking down stairs and struck her 
left shin on a metal plant holder. Two days ago she noticed some 
erythema in her lower left leg and went to an urgent care and 
was placed on clindamycin. Over the last couple days the 
erythema had increased and she was seen by her PCP on ___ and 
again on ___. At that time, erythema was noted to expand 
beyond the marked edges, and she was advised to be admitted for 
IV antibiotics, but she declined. On the day of presentation, 
patient's erythema extended even further which prompted her to 
come to the emergency department. Patient denies any fevers, 
chest pain, shortness of breath, nausea or vomiting. There has 
not been any purulent drainage from the leg.  
In the ED intial vitals were: T 98.3 HR 88 BP 157/86 RR 16 Sat 
99%. Labs were significant for lactate of 2, K of 3.4, Cr 1.1, 
BUN 21, INR 1.3, PTT 40. Patient was given tylenol and IV 
vancomycin 1 gram x1. Blood cultured were drawn and pending.  
On the floor, patient states that her leg pain is improved and 
she has no other acute complaints at this time.  
 
Review of Systems:  
(+) per HPI. 10-point ROS conducted and otherwise negative.  

 
Past Medical History:
venous insufficiency in lower extremities  
Paroxysmal a-fib on rivaroxaban for anticoagulation  
CKD w/ baseline creatinine 1.2 - eGFR 45-50  
HTN  
obesity  
Depression  
GERD  
HSV  
rosacea  
sleep disorder  
PCOS  
H. pylori by EGD biopsy in ___  

 
Social History:
___
Family History:
Sister: DVTs  
Father: a-fib. CVA  
Mother: vascular disease  

 
Physical Exam:
On Admission:
Vitals - 98.2 160/80 76 18 97%RA  
GENERAL: NAD. Well-appearing. Very pleasant.  
HEENT: AT/NC, EOMI, PERRL  
CARDIAC: irregularly irregular rhythma, ___ SEM heard best at 
LUSB  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, obese  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. No focal deficits  
SKIN: Large area of erythema extending across left anterior shin 
and ___ surface of left foot. Area of erythema is 
extending beyond previously marked lines. This area is warm to 
touch and tender to palpation. No areas of fluctuance or 
purulence. No calf tenderness. Right leg w/o any significant 
skin changes.  

On Discharge:
97.5 142/84 70 18 100%RA  
GENERAL: NAD. Well-appearing.  
HEENT: AT/NC  
CARDIAC: rrr, no murmurs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, obese  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. No focal deficits  
SKIN: erythema improving w/in pen marks. Small fluid collection 
ant shin  
 
 

 
Pertinent Results:
On Admission:
___ 08:40AM   GLUCOSE-102* UREA N-15 CREAT-0.9 SODIUM-144 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-32 ANION GAP-15
___ 08:40AM   WBC-6.8 RBC-4.48 HGB-14.2 HCT-42.0 MCV-94 
MCH-31.6 MCHC-33.7 RDW-12.4
___ 08:40AM   PLT COUNT-279
___ 08:40AM   ___ PTT-38.4* ___
___ 09:00PM   LACTATE-2.0
___ 08:46PM   GLUCOSE-133* UREA N-21* CREAT-1.1 SODIUM-140 
POTASSIUM-3.4 CHLORIDE-99 TOTAL CO2-31 ANION GAP-13
___ 08:46PM   WBC-8.7 RBC-4.51 HGB-14.1 HCT-43.6 MCV-97 
MCH-31.2 MCHC-32.3 RDW-13.0
___ 08:46PM   NEUTS-69.8 ___ MONOS-4.7 EOS-1.6 
BASOS-1.2
___ 08:46PM   PLT COUNT-317
___ 08:46PM   ___ PTT-40.0* ___

On Discharge:
___ 08:15AM BLOOD WBC-5.6 RBC-4.40 Hgb-14.4 Hct-42.3 MCV-96 
MCH-32.6* MCHC-34.0 RDW-12.6 Plt ___
___ 08:15AM BLOOD Glucose-114* UreaN-13 Creat-0.8 Na-143 
K-4.1 Cl-106 HCO3-27 AnGap-14

Imaging:
lower extremity ultrasound ___:
1.  No evidence of deep venous thrombosis in the left lower 
extremity veins. 

2.  Subcutaneous edema in the area of redness in the mid to 
distal left shin. 

Microbiology:

Left Shin Fluid Aspiration ___ 1:57 pm SWAB      Source: left shin ABSCESS. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

Blood Culture ___ x 2: no growth
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with A. fib on rivaroxaban, 
hypertension, and venous stasis who presented with left leg 
cellulitis that had not improved on PO clindamycin, admitted for 
IV antibiotics.
 
ACTIVE ISSUE: 
# Cellulitis: 
She presented with a large area of erythema extending across her 
left anterior shin and ___ surface of left foot. The 
area of erythema extended beyond previously marked lines. It was 
warm to the touch and tender to palpation. She had one area of 
fluctuance noted on her anterior shin which was aspirated and 
found to be a hematoma; fluid culture of the aspirated fluid was 
negative for growth. DVT was ruled out with ultrasound. She was 
treated with vancomycin and her symptoms and erythema improved. 
Given her multiple medication allergies and previous failure on 
clindamycin, she was discharged on linezolid to complete 
treatment of her cellulitis outpatient. 

CHRONIC/INACTIVE ISSUES:
# Paroxysmal Afib: continued metoprolol and rivaroxaban. Rate 
controlled.  
# HTN: continued home losartan, metoprolol, and HCTZ  
# Depression/sleep disorder: continued aderral, lamotrigine and 
risperidone  
 
TRANSITIONAL ISSUES:
- Code: Full (confirmed with patient)  
- Emergency Contact:  
HCP ___ (friend) ___.  
Alternative: ___ (brother) ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Adderall XR (dextroamphetamine-amphetamine) 40 mg oral daily 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. LaMOTrigine 300 mg PO HS 
4. Losartan Potassium 50 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Rivaroxaban 20 mg PO DAILY 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
8. Multivitamins 1 TAB PO DAILY 
9. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Linezolid ___ mg PO Q12H Duration: 10 Days 
RX *linezolid [Zyvox] 600 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Docusate Sodium 100 mg PO BID 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. LaMOTrigine 300 mg PO HS 
6. Losartan Potassium 50 mg PO DAILY 
7. Metoprolol Tartrate 25 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 
10. Adderall XR (dextroamphetamine-amphetamine) 40 mg ORAL DAILY 


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure meeting you during your hospitalization at 
___. You were admitted with cellulitis for IV antibiotics. 
Your infection improved with IV vancomycin. You will be 
discharged on linezolid to continue to treat the infection. 
While taking this antibiotic, you will need to follow a low 
tyramine diet. Please take your medication as prescribed and 
follow up with your doctor.

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___